US07186727B2
tert-butyl 6-[(5S,9R)-9-(4-cyanophenyl)-3-(3,5-dichlorophenyl)-1-methyl-2,4-dioxo-1,3,7-triazaspiro[4.4]non-7-yl]nicotinate
A 3-necked flask was charged with 6-chloronicotinic acid (53.0 g, 336 mmol), 4-(dimethylamino)-pyridine (3.03 g, 24.6 mmol), and tetrahydrofuran (350 mL). The contents of the flask was heated to 62.5° C. and a solution of di-tert-butyl dicarbonate (200.2 g, 917 mmol) in tetrahydrofuran (240 mL) was slowly added over a period of 4.6 h. The contents of the flask were maintained at 62.5° C. for approximately 1 h and then cooled to 21° C. A portion of the solution (219 mL), which contained tert-butyl 6-chloronicotinate (16.4 g, 76.8 mmol), was mixed with 1 N NaOH (150 mL) and methyl tert-butyl ether (150 mL) at 21° C. To this mixture was charged 4-[(5S,9R)-3-(3,5-Dichlorophenyl)-1-methyl-2,4-dioxo-1,3,7-triazaspiro[4.4]non-9-yl]-benzonitrile semi (+)-DTTA salt (37.4 mmol, 61.5 mmol). After mixing for 10 minutes, a phase split was performed, the aqueous layer was discarded and the organic layer was distilled under atmospheric pressure. After 220 mL of distillate was collected, 220 mL of methyl tert-butyl ether was charged back and the distillation was resumed. After an additional 250 mL of distillate was collected, 100 mL of n-methyl-2-pyrrolidinone was charged and the distillation was continued until the pot temperature rose to 90° C. Diisopropylethyl amine (27 mL, 155 mmol) was then charged and the mixture was heated at 110° C. for approximately 17 h. A portion of the crude reaction mixture (48 mL) was transferred into a separate funnel and was extracted twice with 3.4:1 heptane:cyclohexane (31 mL). The top layers were discarded and the bottom layer was extracted three times with a mixture of methyl tert-butyl ether (36 mL) and H2O (24 mL). The bottom aqueous layers were discarded. To the top layer was added methyl tert-butyl ether (40 mL) and was filtered back to a distillation flask. After most of methyl tert-butyl ether was distilled off, the mixture was diluted to a total volume of 169 mL with 1:1 methyl tert-butyl ether:isopropyl alcohol. p-Toluenesulfonic acid (0.358 g) was then added to this solution and was dissolved upon gently heating. The solution was then cooled and stirred until crystals appeared. A second charge of p-toluenesulfonic acid (0.424 g) was added and the slurry was further stirred at 21° C. for 30 minutes before it was filtered and washed twice with 25 mL of 1:1 methyl tert-butyl ether:isopropyl alcohol. The product (3.34 g, 86% yield) was isolated as white crystals and was dried in a vacuum oven at 40° C.

reactant | 6-chloronicotinic acid | 336 mmol, 53.0 g | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | di-tert-butyl dicarbonate | 917 mmol, 200.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | tert-butyl 6-chloronicotinate | 76.8 mmol, 16.4 g | ClC1=NC=C(C(=O)OC(C)(C)C)C=C1 | C10H12ClNO2
reactant | NaOH | 1 N, 150 mL | [OH-].[Na+]
reactant | 4-[(5S,9R)-3-(3,5-Dichlorophenyl)-1-methyl-2,4-dioxo-1,3,7-triazaspiro[4.4]non-9-yl]-benzonitrile | ClC=1C=C(C=C(C1)Cl)N1C(N([C@]2(C1=O)CNC[C@H]2C2=CC=C(C#N)C=C2)C)=O | C20H16Cl2N4O2
reactant | (+)-DTTA | 37.4 mmol | CC1=CC=C(C=C1)C(=O)O[C@@H]([C@@H](C(=O)O)OC(=O)C2=CC=C(C=C2)C)C(=O)O | C20H18O8
reactant | Diisopropylethyl amine | 155 mmol, 27 mL | C(C)(C)N(CC)C(C)C | C8H19N
catalyst | 4-(dimethylamino)-pyridine | 24.6 mmol, 3.03 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 240 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 350 mL | O1CCCC1 | C4H8O
solvent | methyl tert-butyl ether | 150 mL | C(C)(C)(C)OC | C5H12O
product | tert-butyl 6-[(5S,9R)-9-(4-cyanophenyl)-3-(3,5-dichlorophenyl)-1-methyl-2,4-dioxo-1,3,7-triazaspiro[4.4]non-7-yl]nicotinate | 3.34 g, 86% yield | C(#N)C1=CC=C(C=C1)[C@@H]1CN(C[C@]12C(N(C(N2C)=O)C2=CC(=CC(=C2)Cl)Cl)=O)C2=NC=C(C(=O)OC(C)(C)C)C=C2 | C30H27Cl2N5O4
